US07361763B2
To a suspension of (methoxymethyl)triphenylphosphonium chloride (166 mg, 0.485 mmol) in THF (1 ml) at 0° C. under nitrogen was added potassium bis(trimethylsilyl)amide (97 mg, 0.485 mmol). The mixture was stirred at room temperature for 30 min, then it was added to [2-amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-(6-amino-pyridin-3-yl)-methanone (34 mg, 0.097 mmol) in one portion. The reaction mixture was stirred for 2 hours, then quenched with wet methanol and concentrated in vacuo. The crude was diluted with 2 ml of 1,4-dioxane and treated with 0.1 ml of aqueous 70% perchloric acid. The mixture was stirred at 80° C. for 19 hours, diluted with THF/methanol (1:1), and treated with 2.0 g of PS-trisamine (Argonaut Technologies, 4 equivalents per equivalent of acid used) for 30 minutes. The resin was filtered off and washed with THF/MeOH (1:1). Purification was accomplished by flash chromotography on silica gel with a gradient of methanol/dichloromethane afforded 5-[5-(3,4-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-pyridin-2-ylamine as a yellow solid (9.7 mg, 29% yield). 1H NMR (DMSO-d6): δ 11.8 (s, 1H), 8.51 (d, J=2.0 Hz, 1H), 8.31 (d, J=2.0 Hz, H), 8.25 (d, J=2.0 Hz, 1H), 7.77 (dd, J=2.0, 10.0 Hz, 1H), 7.70 (d, J=2.5 Hz, 1H), 7.28 (d, J=2.0 Hz, 1H), 7.24 (dd, J=2.0, 7.5 Hz, 1H), 7.04 (d, J=8.5 Hz, 1H), 6.55 (d, J=8.5 Hz, 1H), 5.90 (broad s, 2H), 3.86 (s, 3H), 3.79 (s, 3H). HPLC/MS m/z: 347.1 [MH]+.

reactant | (methoxymethyl)triphenylphosphonium chloride | 0.485 mmol, 166 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium bis(trimethylsilyl)amide | 0.485 mmol, 97 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | [2-amino-5-(3,4-dimethoxy-phenyl)-pyridin-3-yl]-(6-amino-pyridin-3-yl)-methanone | 0.097 mmol, 34 mg | NC1=NC=C(C=C1C(=O)C=1C=NC(=CC1)N)C1=CC(=C(C=C1)OC)OC | C19H18N4O3
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-[5-(3,4-dimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-pyridin-2-ylamine | 9.7 mg, 29% yield | COC=1C=C(C=CC1OC)C=1C=C2C(=NC1)NC=C2C=2C=CC(=NC2)N | C20H18N4O2
